US05840732
Synthesis of 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]-oxazolidine-2,4-dione
To a solution of 6.30 g (26.2 mmol) of 5-(4-chlorobutylthio)imidazo[1,2-a]pyridine and 3.64 g (26.2 mmol) of oxazolidine-2,4-dione potassium salt in 100 ml of N,N-dimethylformamide, 3.92 g (26.2 mmol) of sodium iodide was added, followed by stirring at 80° C. for 16 hours. After cooling, the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate) to yield 5.70 g (71.4%, light orange crystal) of the desired product.

reactant | 5-(4-chlorobutylthio)imidazo[1,2-a]pyridine | 26.2 mmol, 6.30 g | ClCCCCSC1=CC=CC=2N1C=CN2 | C11H13ClN2S
reactant | oxazolidine-2,4-dione potassium salt | 26.2 mmol, 3.64 g | [K].O1C(NC(C1)=O)=O
reactant | sodium iodide | 26.2 mmol, 3.92 g | [I-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]-oxazolidine-2,4-dione | N=1C=CN2C1C=CC=C2SCCCCN2C(OCC2=O)=O | C14H15N3O3S
